US04218455
4-{4-[(4-Chlorophenyl)thio]-1,2,3,6-tetrahydro-1-pyridinyl}-1-(4-fluorophenyl)-1-butanone Hydrochloride.
A mixture of 11.2 g of 4-[(4-chlorophenyl)thio]-1,2,3,6-tetrahydropyridine, 10.0 g of 4-chloro-p-fluorobutyrophenone and 6.9 g of potassium carbonate is heated at 98° C. for 1 hour. The mixture is taken up in benzene and filtered. Evaporation of the filtrate gives a brown oil which is treated with a large excess of 1 N hydrochloric acid. The resulting precipitate is collected to afford 8.9 g (46%) of tan powder, m.p. 208°-210° C. Recrystallization from acetonitrile yields off-white crystals, m.p. 220°-222° C.

reactant | 4-[(4-chlorophenyl)thio]-1,2,3,6-tetrahydropyridine | 11.2 g | ClC1=CC=C(C=C1)SC=1CCNCC1 | C11H12ClNS
reactant | 4-chloro-p-fluorobutyrophenone | 10.0 g | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
reactant | potassium carbonate | 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-{4-[(4-Chlorophenyl)thio]-1,2,3,6-tetrahydro-1-pyridinyl}-1-(4-fluorophenyl)-1-butanone Hydrochloride | 8.9 g, 46% | Cl.ClC1=CC=C(C=C1)SC=1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)F | InChI=1S/C21H21ClFNOS.ClH/c22-17-5-9-19(10-6-17)26-20-11-14-24(15-12-20)13-1-2-21(25)16-3-7-18(23)8-4-16;/h3-11H,1-2,12-15H2;1H
